US07202363B2
N-[4-(4-amino-7-{(1E)-4-[4-(aminomethyl)piperidin-1-yl]but-1-enyl}thieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide
Tert-butyl (1-{(3E)-4-[4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridin-7-yl]but-3-enyl}piperidin-4-yl)methylcarbamate (0.08 g, 0.112 mmol) was reacted according to General Procedure H. Dichloromethane and MP-carbonate resin were added and shaken overnight. The resin was filtered and the solvent evaporated under reduced pressure to give 0.02 g (29%) of the title compound. 1H NMR (DMSO-d6, 400 MHz) δ 9.51 (s, 1H), 8.01–7.99 (d, 1H), 7.92 (s, 1H), 7.71–7.69 (d, 1H), 7.60–7.57 (m, 2H), 7.35–7.31 (m, 2H), 7.19 (m, 1H), 7.15 (m, 1H), 7.13–7.07 (m, 1H), 6.59–6.55 (d, 1H), 6.27–6.23 (m, 1H), 5.58 (brs, 2H), 4.04 (s, 3H), 3.91 (s, 3H), 2.94–2.91 (m, 3H), 2.44 (m, 6H), 1.92–1.87 (t, 2H), 1.69–1.66 (d, 1H), 1.23 (m, 1H), 1.16–1.11 (m, 2H); LCMS (conditions a) Rt 2.37 min (100%), M+ 595.4.

reactant | Tert-butyl (1-{(3E)-4-[4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridin-7-yl]but-3-enyl}piperidin-4-yl)methylcarbamate | 0.112 mmol, 0.08 g | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)/C=C/CCN2CCC(CC2)CNC(OC(C)(C)C)=O | C39H46N6O4S
reactant | MP-carbonate resin | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
solvent | Dichloromethane | ClCCl | CH2Cl2
product | N-[4-(4-amino-7-{(1E)-4-[4-(aminomethyl)piperidin-1-yl]but-1-enyl}thieno[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-indole-2-carboxamide | 0.02 g, 29% | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)\C=C\CCN2CCC(CC2)CN | C34H38N6O2S
